US06586633B1
Production of 3-Bromo-5-fluorobenzyl Bromide
While phosphorus tribromide (3.65 g) was stirred, 47% aqueous hydrogen bromide solution (18.3 ml) was added in such a manner that the reaction temperature did not exceed 40° C. 3-Bromo-5-fluorobenzyl alcohol (7.70 g) in ethanol (6 ml) was added dropwise thereto, and the mixture was refluxed for 5 hours in an oil bath. The reaction mixture was cooled, and poured into ice/water, followed by extraction with n-hexane (150 ml). The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=30:1), to thereby yield 6.64 g of the target compound (yield: 66.0%).

reactant | phosphorus tribromide | 3.65 g | P(Br)(Br)Br | Br3P
reactant | hydrogen bromide | 18.3 ml | Br | BrH
reactant | 3-Bromo-5-fluorobenzyl alcohol | 7.70 g | BrC=1C=C(CO)C=C(C1)F | C7H6BrFO
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 3-Bromo-5-fluorobenzyl Bromide | yield 6.64 g, yield: 66.0% | BrC=1C=C(CBr)C=C(C1)F | C7H5Br2F
